US08084620B2
Step 2 A mixture of methyl 2-(bromomethyl)-5-methoxybenzoate (1.435 g, 5.54 mmol), 3-bromo-2-methylaniline (1.03 g, 5.54 mmol) and TEA (1.158 mL, 8.31 mmol) in methanol (5 mL) was heated at 85° C. for 2 h. The mixture was diluted with DCM, washed with NaHCO3 (aq), and dried and concentrated. The residue was purified by column chromatography (eluting with EtOAc-hexane) to provide methyl 2-((3-bromo-2-methylphenylamino)methyl)-5-methoxybenzoate as a yellow oil (361 mg, 18%). Mass spectrum m/z 364, 366 (M+H)+.

reactant | methyl 2-(bromomethyl)-5-methoxybenzoate | 5.54 mmol, 1.435 g | BrCC1=C(C(=O)OC)C=C(C=C1)OC | C10H11BrO3
reactant | 3-bromo-2-methylaniline | 5.54 mmol, 1.03 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
solvent | methanol | 5 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 2-((3-bromo-2-methylphenylamino)methyl)-5-methoxybenzoate | 361 mg, 18% | BrC=1C(=C(C=CC1)NCC1=C(C(=O)OC)C=C(C=C1)OC)C | C17H18BrNO3
